US07638515B2
1,1,1-Trifluoro-4-(3-chloro-2-methoxyphenyl)-2-[(1H-indazol-4-yl)iminomethyl]-4-methylpentan-2-ol
125 mg (0.385 mmol) of 4-(3-chloro-2-methoxy-phenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal is mixed in 0.7 ml of glacial acetic acid with 51.3 mg (0.385 mmol) of 4-aminoindazole, and it is stirred overnight at room temperature. After concentration by evaporation until a dry state is reached, it is chromatographed on a Flashmaster. 11.9 mg (74.1%) of the desired compound is isolated.

reactant | 4-(3-chloro-2-methoxy-phenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal | 0.385 mmol, 125 mg | ClC=1C(=C(C=CC1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16ClF3O3
reactant | 4-aminoindazole | 0.385 mmol, 51.3 mg | NC1=C2C=NNC2=CC=C1 | C7H7N3
solvent | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
product | 1,1,1-Trifluoro-4-(3-chloro-2-methoxyphenyl)-2-[(1H-indazol-4-yl)iminomethyl]-4-methylpentan-2-ol | 11.9 mg, 74.1% | FC(C(CC(C)(C)C1=C(C(=CC=C1)Cl)OC)(O)C=NC1=C2C=NNC2=CC=C1)(F)F | C21H21ClF3N3O2
